Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Red Dye
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ Aortic Valve Replacement(23mm ___ porcine)

 
History of Present Illness:
Mr. ___ is a very nice ___ ___ gentleman with a 
history of aortic stenosis, diabetes mellitus, hyperlipidemia, 
hypertension, and pseudodementia. An echocardiogram in ___ 
demonstrated severe aortic stenosis with an aortic valve area of 
0.8 cm2 with peak and mean gradients of 56 mmHg and 39 mmHg, 
respectively. A stress echocardiogram in ___ revealed 
further progression of his aortic stenosis with peak and mean
gradients of 85 mmHg and 54 mmHg, respectively. Recently he has 
noted onset of dyspnea on exertion with walking uphill or 
climbing stairs. He was referred to Dr. ___ surgical 
consultation.

He noted dyspnea on exertion as described above and mild lower 
extremity edema. He denied syncope, dizziness, lightheadedness, 
shortness of breath at rest, chest pain, palpitations, 
orthopnea, or paroxysmal nocturnal dyspnea.
 
Past Medical History:
Aortic Stenosis
Depression
Diabetes Mellitus Type II
Hyperlipidemia
Hypertension
Obesity
Osteoarthritis 
Pseudodementia
 
Social History:
___
Family History:
Father died at age ___ of Alzheimer's disease.
Mother died in her ___ of a postpartum hemorrhage.
He has two brothers, two sisters, and no children. One of his 
sisters has
diabetes and another has hypertension and hyperlipidemia. There 
is no family history notable for stroke, early coronary artery 
disease or sudden cardiac death.
 
Physical Exam:
Vital Signs sheet entries for ___: 
BP: 159/54. HR: 81. O2 Sat%: 94. RR: 15. Pain Score: 0.
Height: 62"  Weight: 175 lb

General: Pleasant man, resting in bed comfortably post cath. 
Skin: warm, dry, intact
HEENT: PERRLA, EOMI, Native teeth in fair repair
Neck:  Supple, full ROM
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm, III/VI SEM heard ___ at LUSB 
Abdomen: Normal BS, soft, non-distended, non-tender 
Extremities: Warm, well-perfused, 1+ edema 
Varicosities: None 
Neuro: Grossly intact 
Pulses:
DP           Right: 2+  Left: 2+
___           Right: 2+  Left: 2+
Radial       Right: 2+  Left: 2+
Femoral:     right -cath site no hematoma

Carotid Bruit: transmitted murmur vs. bruit

Discharge Examination 

HEENT: PERRLA, EOMI
Neck:  Supple, full ROM
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm
Abdomen: Normal BS, soft, non-distended, non-tender 
Extremities: Warm, well-perfused, 1+ ___ edema 
Neuro: Grossly intact 
Sternal wound: clean, dry, intact
 
Pertinent Results:
Cardiac Catheterization ___
Right Dominant 
LMCA: 40% eccentric distal stenosis at the trifurcation.
LAD: diffusely calcified. Ostial 30% stenosis and mid 30% 
stenosis. ___ Diagonal has 50% stenosis.
LCX: 40-50% OM1 stenosis.
RI: proximal ___ stenosis.
RCA: diffusely calcified. Ostial/proximal 50% stenosis.

___ ECHOCARDIOGRAPHY REPORT
Left Ventricle - Septal Wall Thickness:   *1.2 cm   0.6 - 1.1 cm 
  
Left Ventricle - Inferolateral Thickness:   *1.2 cm   0.6 - 1.1 
cm   
Left Ventricle - Diastolic Dimension:   5.0 cm   <= 5.6 cm   
Left Ventricle - Ejection Fraction:   55%   >= 55%   
Left Ventricle - Stroke Volume:   53 ml/beat       
Aorta - Ascending:   3.2 cm   <= 3.4 cm   
Aortic Valve - Peak Velocity:   *4.2 m/sec   <= 2.0 m/sec   
Aortic Valve - Peak Gradient:   *72 mm Hg   < 20 mm Hg   
Aortic Valve - Mean Gradient:   46 mm Hg       
Aortic Valve - LVOT pk vel:   7.50 m/sec       
Aortic Valve - LVOT VTI:   17       
Aortic Valve - LVOT diam:   2.0 cm       
  
Findings   
LEFT ATRIUM: Good (>20 cm/s) ___ ejection velocity. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: No ASD by 2D or color Doppler. 
LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. 
Overall normal LVEF (>55%). 
RIGHT VENTRICLE: Normal RV chamber size and free wall motion. 
AORTA: Normal ascending aorta diameter. Complex (>4mm) atheroma 
in the descending thoracic aorta. No thoracic aortic dissection. 

AORTIC VALVE: ?# aortic valve leaflets. Severely 
thickened/deformed aortic valve leaflets. Severe AS (area 
<1.0cm2). Mild (1+) AR. 
MITRAL VALVE: Normal mitral valve leaflets with trivial MR. 
___ VALVE: Normal tricuspid valve leaflets with trivial 
TR. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 
PERICARDIUM: No pericardial effusion. 
  
Pre-bypass 
 No atrial septal defect is seen by 2D or color Doppler. There 
is mild symmetric left ventricular hypertrophy. The left 
ventricular cavity size is normal. Left ventricular function is 
normal with no regional wall motion abnormalities. Right 
ventricular chamber size and free wall motion are normal. There 
are complex atheroma in the descending thoracic aorta. No 
thoracic aortic dissection is seen. The number of aortic valve 
leaflets cannot be determined due to severe calcification. The 
aortic valve leaflets are severely thickened/deformed. There is 
severe aortic valve stenosis (valve area <1.0cm2). Mild (1+) 
aortic regurgitation is seen. The ascending aorta is normal in 
size. The mitral valve appears structurally normal with trivial 
mitral regurgitation. The tricuspid valve appears normal with 
trivial tricuspid regurgitation. There is no pericardial 
effusion.

 Post-bypass
 The patient is on a phenylephrine infusion and is A-V paced.
 A well-seated bioprosthetic valve is seen in the aortic 
position. No paravalvular leak is seen. Residual mean gradient 
across the bioprosthetic aortic valve is within acceptable 
limits.
 Biventricular function is preserved. No evidence of thoracic 
aortic dissection. The remainder of the exam is unchanged.   

CXR ___
Compared to ___. 
Moderate enlargement of cardiac silhouette has increased since 
___.  No pneumothorax or appreciable pleural effusion.  
Moderate left lower lobe atelectasis has increased. 
Right jugular line ends in the low SVC. 

 
Brief Hospital Course:
He was admitted to ___ on ___ for cardiac 
catheterization. The study demonstrated moderate three vessel 
coronary coronary artery disease. He remained stable overnight 
and was taken to the operating room the next day. He underwent 
aortic valve replacement. Please see operative note for full 
details. He tolerated the procedure well and was transferred to 
the CVICU on neosynephrine and paced.  He was weaned from 
sedation that evening, awoke and was extubated.  POD 1 his chest 
tubes were removed, started Lasix, Lopressor and lisinopril.  
Later that evening he was weaned off nicardipine that had been 
started for blood pressure control.  However is blood glucose 
increased and he was restarted on insulin drip and remained in 
the CVICU.  He has baseline pseudodementia and that evening was 
mild confusion and agitation that he was given additional 
Seroquel above his home dose and was able to rest.  POD 2 his 
glipizide and insulin were further adjusted and he was weaned 
off the insulin drip.  Due to increased heart rate the 
lisinopril was stopped to allow further betablocker.  He 
continued to progress and was transferred to the floor and 
ramelteon was added for sleep.  POD 3 he was less interactive 
the ramelteon was discontinued and he was more interactive by 
the afternoon, Seroquel was reduced back to home dose of 12.5 mg 
BID, epicardial wires removed.  He was seen by physical therapy 
for strength and mobility, recommendation for home with ___, 
walker and family assistance.  His niece is very supportive and 
will be with him to assist at home. On post-operative day five 
he was discharged to his niece's home.

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. GlipiZIDE XL 10 mg PO BID 
5. Lisinopril 20 mg PO DAILY 
6. QUEtiapine Fumarate 12.5 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID  
3.  Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg one tablet(s) by mouth daily Disp #*7 
Tablet Refills:*2 
4.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg one tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*2 
5.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
6.  Potassium Chloride 10 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 10 mEq one capsule(s) by mouth daily Disp 
#*7 Capsule Refills:*2 
7.  Ranitidine 150 mg PO DAILY Duration: 1 Month 
RX *ranitidine HCl 150 mg one capsule(s) by mouth daily Disp 
#*30 Capsule Refills:*0 
8.  Tamsulosin 0.4 mg PO QHS 
RX *tamsulosin 0.4 mg one capsule(s) by mouth daily Disp #*30 
Capsule Refills:*2 
9.  GlipiZIDE 10 mg PO QAM  
10.  GlipiZIDE 5 mg PO QPM 
RX *glipizide 5 mg one tablet(s) by mouth with dinner Disp #*30 
Tablet Refills:*2 
11.  amLODIPine 5 mg PO DAILY  
12.  Aspirin 81 mg PO DAILY  
13.  Atorvastatin 40 mg PO QPM  
14.  QUEtiapine Fumarate 12.5 mg PO BID  
15.DME
wheelchair s/p AVR
prognosis: good
___: 6 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic stenosis s/p aortic valve replacement 
Coronary artery disease as per cardiac catheterization
Diabetes Mellitus Type 2
Pseudodementia 

Secondary diagnosis 
Depression
Hyperlipidemia
Hypertension
Obesity
Osteoarthritis 
Right eye cataract surgery

 
Discharge Condition:
Alert and oriented x3, non focal 
Ambulating with walker 
Sternal pain managed with acetaminophen 
Sternal Incision - healing well, no erythema or drainage
Edema 1+

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
 
Please - NO lotion, cream, powder or ointment to incisions
 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
 
No driving for approximately one month and while taking 
narcotics

Clearance to drive will be discussed at follow up appointment 
with surgeon
 
No lifting more than 10 pounds for 10 weeks
 
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
 
Followup Instructions:
___